Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Rifabutin
 
Attending: ___.
 
Chief Complaint:
fall from chair, rib fractures 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ hx of MAC infection on ethambutol, 
rifabutin,
clarithromycin treatment, bronchiectasis, PVD with RLE rest pain
on cilostazol, presenting after mechanical fall. She was on her
rolling chair at home 2 days ago ___ @ 12:35) and fell off,
landing onto the night stand with her right backside. Denies
headstrike or LOC. Ambulates baseline with cane. This morning 
she
continued to have severe chest wall and back pain so she
presented to the ED for further evaluation. On arrival, patient
mainly complained of bilateral rib pain, worsened with deep
inspiration and coughing. FAST exam was negative.
 
Past Medical History:
1)MAC infection, followed by Dr. ___, on ethambutol, 
rifabutin, clarithromycin. (ethambutol uveitis)  
2) Presyncopal episodes in ___, cardiac workup unrevealing  
2) Rheumatoid Arthritis  
3) Bronchiectasis  
4) Hypothyroidism  
5) Urge incontinence  
6) s/p mechanical fall in ___  

 
Social History:
___
Family History:
Non-contributory
 
Brief Hospital Course:
The patient was admitted to the trauma surgery service after her 
fall. Her final list of injuries includes R non displaced ___ 
rib fracture, bilateral minimally displaced ___ ri fracture, R 
L1-L2 transverse process fractures, L L1 transverse process 
fracture. The patient was initially given IV pain medications 
for her pain control, but was eventually able to manage pain 
well with PO pain meds. She was given an incentive spirometry 
and cough pillow and educated on the importance of pulmonary 
toilet. She was advanced to a regular diet. Patient had 
significant hypertension with SBPs in 170s during her 
hospitalization, thus her lisinopril dos was increased. Physical 
therapy evaluated the patient and determined that she should be 
discharged to rehab. The patient was discharged to rehab on 
___. At the time of discharge, she was off oxygen, tolerating 
a regular diet, pain was controlled with oral pain medication. 
She was discharged with plan to follow up with ACS in ___ weeks 
after discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ofloxacin 0.3 % ophthalmic Q4H 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES Q4H 
3. Lumigan (bimatoprost) 0.01 % ophthalmic QHS 
4. Artificial Tears Preserv. Free ___ DROP BOTH EYES Q4H 
5. Acetaminophen 650 mg PO TID 
6. Aspirin 81 mg PO DAILY 
7. Atorvastatin 40 mg PO QPM 
8. Cilostazol 50 mg PO BID 
9. FoLIC Acid 1 mg PO DAILY 
10. Levothyroxine Sodium 150 mcg PO DAILY 
11. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
12. Lisinopril 5 mg PO DAILY 
13. Ranitidine 150 mg PO DAILY 
14. Azithromycin 250 mg PO Q24H 
15. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
16. Ethambutol HCl 900 mg PO DAILY 
17. Rifampin 600 mg PO Q24H 
18. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
2. Azithromycin 250 mg PO Q24H 
3. Cilostazol 50 mg PO BID 
4. Artificial Tears Preserv. Free ___ DROP BOTH EYES Q4H 
5. Aspirin 81 mg PO DAILY 
6. Atorvastatin 40 mg PO QPM 
7. Docusate Sodium 100 mg PO BID 
8. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES Q4H 
9. Ethambutol HCl 900 mg PO DAILY 
10. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
11. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
12. FoLIC Acid 1 mg PO DAILY 
13. Levothyroxine Sodium 150 mcg PO DAILY 
14. Lisinopril 5 mg PO DAILY 
15. Lumigan (bimatoprost) 0.01 % ophthalmic QHS 
16. ofloxacin 0.3 % OPHTHALMIC Q4H 
17. Ranitidine 150 mg PO DAILY 
18. Rifampin 600 mg PO Q24H 
19. OxycoDONE (Immediate Release)  2.5-5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4H PRN Disp #*30 
Tablet Refills:*0
20. Polyethylene Glycol 17 g PO DAILY:PRN constipation  
RX *polyethylene glycol 3350 [___] 17 gram 1 powder(s) by 
mouth once a day Disp #*1 Package Refills:*0
RX *polyethylene glycol 3350 [___] 17 gram 1 powder(s) by 
mouth once a day Disp #*30 Packet Refills:*0
21. Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Rib fractures, L1/L2 transverse process fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* Your injury caused right nondisplaced ___ rib fractures, 
bilateral minimally displaced 12th rib fractures, right L1 and 
L2 transverse process fractures, left L1 transverse process 
fracture which can cause severe pain and subsequently cause you 
to take shallow breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___